US07511050B2
Step G: (2E)-3-Pentyl-8-(trifluoromethyl)-3,7-dihydro-1H-purine-2,6-dione-2-hydrazone
A mixture of 2-(methylthio)-3-pentyl-8-(trifluoromethyl)-1,2,3,7-tetrahydro-6H-purin-6-one (0.61 g, 0.95 mmol), hydrazine (3 mL, 100 mmol) and water (3 mL) was stirred at 100° C. for 1 h. The reaction solution was concentrated under reduced pressure. The residue was dissolved in DMSO and purified by preparative LCMS. The product fractions were collected and lyophilized to give the desired product (0.25 g, 65%). LCMS calculated for C11H15F3N6O: (M+H) 305.1; found 305.1.

reactant | 2-(methylthio)-3-pentyl-8-(trifluoromethyl)-1,2,3,7-tetrahydro-6H-purin-6-one | 0.95 mmol, 0.61 g | CSC1NC(C=2NC(=NC2N1CCCCC)C(F)(F)F)=O | C12H17F3N4OS
reactant | hydrazine | 100 mmol, 3 mL | NN | H4N2
solvent | water | 3 mL | O | H2O
product | (2E)-3-Pentyl-8-(trifluoromethyl)-3,7-dihydro-1H-purine-2,6-dione-2-hydrazone | 0.25 g, 65% | C(CCCC)N1/C(/NC(C=2NC(=NC12)C(F)(F)F)=O)=N/N | C11H15F3N6O
